US04402960
2.24 g of 4,5-diphenyl-2-(2-amino-4-trifluoromethylphenylthio)imidazole hydrochloride is dissolved in 100 ml of methanolic hydrochloric acid and combined at 0° with 0.586 g of isoamyl nitrite. The mixture is agitated for 30 minutes, then heated to boiling for 2 hours and the solution evaporated under vacuum to dryness. The residue is distributed between ethyl acetate and sodium bicarbonate solution. The organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized from ether/chloroform, thus obtaining 1.61 g of 4,5-diphenyl-2-(4-trifluoromethylphenylthio)imidazole, mp 227°-229°.

reactant | 4,5-diphenyl-2-(2-amino-4-trifluoromethylphenylthio)imidazole hydrochloride | 2.24 g | Cl.C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC1=C(C=C(C=C1)C(F)(F)F)N
reactant | isoamyl nitrite | 0.586 g | N(=O)OCCC(C)C | C5H11NO2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 4,5-diphenyl-2-(4-trifluoromethylphenylthio)imidazole | 1.61 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC1=CC=C(C=C1)C(F)(F)F | C22H15F3N2S
